US07759337B2
To a mixture of (R)-2-aminopropan-1-ol (15 g, 200 mmol) in 200 mL water stirred at 0° C. was added (R)-2-methyloxirane (13 g, 220 mmol) dropwise using a syringe pump over 3 h. The mixture was stirred at 0° C.—RT over 4 h. The mixture was concentrated in vacuo with to remove water. The mixture was vacuum distilled to remove the unreacted alaninol at first (60° C. fraction), then collected the 110-115° C. fraction to give the (R)-2-((R)-2-hydroxypropylamino)propan-1-ol as a sticky pale yellow oil.

reactant | (R)-2-aminopropan-1-ol | 200 mmol, 15 g | N[C@@H](CO)C | C3H9NO
reactant | (R)-2-methyloxirane | 220 mmol, 13 g | C[C@H]1OC1 | C3H6O
solvent | water | 200 mL | O | H2O
product | (R)-2-((R)-2-hydroxypropylamino)propan-1-ol | O[C@@H](CN[C@@H](CO)C)C | C6H15NO2
